US05473094
In a planar-section pot with flow-spoilers, a blower/stirrer and reflux condenser, 0.75 mol/h of phosgene was continuously bubbled into 141 g (1.50 mol) of phenol in the presence of 14.1 g (10 wt. % with reference to phenol) of a powdered aluminium oxide 507-C-I (neutral) from CAMAG. After about 2 h reaction time, the phenol conversion was 41%, wherein 66 g of diphenyl carbonate were formed. The selectivity to give carbonate was >99%.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phenol | 1.50 mol, 141 g | C1(=CC=CC=C1)O | C6H6O
product | diphenyl carbonate | 66 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
